Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
atorvastatin / Cipro
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ PMH of CAD s/p Promus DES to mid-LAD, D1 branch, and 
distal-RCA on ___ (also other stents: total 7), HIV on 
HAART, CKD (baseline Cr 2.4-2.5), diastolic CHF, PAD, HCV with 
well compensated cirrhosis s/p harvoni, G6PD deficiency, who 
presents with chest pain.

He has chest pain radiating to his left shoulder. It has been 
going on for one day, but worse today. Associated with mild 
shortness of breath and lightheadedness. No nausea. He has not 
identified any provoking or palliating factors.  His pain is not 
pleuritic or positional or exertional. Patient states this does 
feel similar to prior MI.  He tried SubL Nitro but it did not 
work.  He took x4 81mg ASA earlier in the day prior to 
presenting.

Last admitted here ___ for chest pain. At that time, pain 
atypical and troponin minimally elevated (in the setting of 
CKD). TTE showed preserved biventricular function. Patient 
preferred medical management and therefore cath deferred.

Of note, patient also admitted to ___ ___ with chest pain. 
At that time, nuclear stress test showed partially reversible 
defects in both the LAD and LCx territory.  At that time, cath 
was extensively discussed with the patient, but he preferred 
medical management.

Patient recently saw his cardiologist, Dr. ___, ___. At 
that time, patient doing well. Continued on aggressive medical 
management of CAD and other comorbidities.

Also of note, Torsemide was stopped on ___ due to ___ 
identified in outpatient setting (Cr 3.1).

In the ED initial vitals were:   
98.6, HR 84, BP 143/66, RR 16, 100% RA 
 
EKG: Serial EKGs in ED show NSR with no ischemic ST/T wave 
changes.  

Labs/studies notable for:  Trop 0.02, MB 2, Cr 2.3 (baseline), 
Hgb 8.5 (baseline 7.9-9.5)

CXR: Surgical hardware is noted overlying the cervical spine. No 
consolidation, pneumothorax, or pleural effusion is identified. 
Pleural calcifications at the bilateral lung apices are 
unchanged. Enlarged cardiomediastinal silhouette is similar to 
before as are coronary artery stents.

Patient was given:  SL Nitro x2

On the floor, he says symptoms are much better.  CP now ___, no 
dyspnea, no new complaints.

REVIEW OF SYSTEMS:  
Positive per HPI.  
10 point ROS reviewed and negative unless stated above in HPI

 
Past Medical History:
1. CARDIAC RISK FACTORS: +hypertension, +CKD, + HIV  
2. CARDIAC HISTORY:  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: CAD s/p Promus DES to  
 mid-LAD, D1 branch, and distal-RCA on ___, s/p Premier DES  

 to mLCX on ___. LAD ___.  
- PACING/ICD: None
- HFpEF 
3. OTHER PAST MEDICAL HISTORY:   
 -Mild AR  
 -CKD (Cr 1.4)  
 -PAD  
 -SIADH  
 -HIV  
 -HCV cured, with residual compensated cirrhosis
 -portal HTN  
 -GERD  
 -chronic diarrhea  
 -cervical stenosis  
 -COPD  
 -colonic polyps  
 -ACD  
 -G6PD deficiency  
 -peripheral neuropathy  
 -? pulmonary TB  
 -+RPR treated in the ___
 
Social History:
___
Family History:
Mother with heart disease diagnosed at age ___. Brother with 
cardiomegaly. 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
Vitals:  Weight 63.8kg, Temp 97.6, HR 70, BP 212/85, RR 20, 99% 
RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM
Lungs: Normal resp effort, no wheezes/rales
CV: Regular rate and rhythm, normal S1 + S2, no murmurs
Abdomen: soft, non-tender, distended, bowel sounds present  
Ext: Warm, well perfused, no cyanosis, trace edema  
Skin: Without rashes or lesions  
Neuro: A&Ox3. CN's grossly intact.

DISCHARGE PHYSICAL EXAMINATION:
General: Alert, oriented x 3, no acute distress  
HEENT: Sclera anicteric, MMM
Lungs: Normal resp effort, no wheezes/rales
CV: Regular rate and rhythm, normal S1 + S2, no murmurs
Abdomen: soft, non-tender, distended, bowel sounds present  
Ext: Warm, well perfused, no cyanosis, trace edema bilaterally
Skin: Without rashes or lesions  
Neuro: A&Ox3. CNII-XII grossly intact.
 
Pertinent Results:
Admission Labs:
___ 04:23PM BLOOD WBC-6.3 RBC-2.70* Hgb-8.5* Hct-26.8* 
MCV-99* MCH-31.5 MCHC-31.7* RDW-12.4 RDWSD-45.0 Plt ___
___ 04:23PM BLOOD Neuts-37.8 ___ Monos-7.8 Eos-5.2 
Baso-0.3 Im ___ AbsNeut-2.39 AbsLymp-3.07 AbsMono-0.49 
AbsEos-0.33 AbsBaso-0.02
___ 04:23PM BLOOD ___ PTT-41.1* ___
___ 04:23PM BLOOD Plt ___
___ 04:23PM BLOOD Glucose-117* UreaN-55* Creat-2.3* Na-131* 
K-5.4* Cl-101 HCO3-15* AnGap-20
___ 04:23PM BLOOD CK(CPK)-157
___ 04:23PM BLOOD CK-MB-2
___ 04:23PM BLOOD cTropnT-0.02*
___ 12:18AM BLOOD CK-MB-3 cTropnT-0.01
___ 08:00AM BLOOD CK-MB-3 cTropnT-0.02*
___ 08:00AM BLOOD Calcium-9.2 Phos-3.6 Mg-2.0

Discharge Labs:
___ 08:00AM BLOOD WBC-5.2 RBC-2.74* Hgb-8.7* Hct-26.8* 
MCV-98 MCH-31.8 MCHC-32.5 RDW-12.3 RDWSD-43.7 Plt ___
___ 08:00AM BLOOD Plt ___
___ 08:00AM BLOOD ___ PTT-50.0* ___
___ 08:00AM BLOOD Glucose-110* UreaN-51* Creat-2.1* Na-139 
K-4.5 Cl-106 HCO3-16* AnGap-22*

Diagnostics:
FINDINGS:
 Surgical hardware is noted overlying the cervical spine.  No 
consolidation, pneumothorax, or pleural effusion is identified.  
Pleural calcifications at the bilateral lung apices are 
unchanged.  Enlarged cardiomediastinal silhouette is similar to 
before as are coronary artery stents.
 IMPRESSION:
 No pneumothorax.
 

 
Brief Hospital Course:
___ w/ PMH of CAD s/p Promus DES to mid-LAD, D1 branch, and 
distal-RCA on ___ (also other stents: total 7), HIV on 
HAART, CKD (baseline Cr 2.4-2.5), diastolic CHF, PAD, HCV with 
well compensated cirrhosis s/p harvoni, G6PD deficiency, who 
presented with chest pain worrisome for unstable angina. 

# Unstable Angina: # CAD:
Patient notably has had several repeat presentations with 
similar type of anginal chest pain, when medical workups 
demonstrated some probable new atherosclerotic disease causing 
partially reversible perfusion defects involving the LAD and LCx 
territory. Due to patient's advanced CKD and the risks involved 
with catheterization with angiography, decision had been made in 
the past to treat subsequent events of anginal pain medically 
without surgical or operative intervention if possible.

Patient presented with chest pain that radiated to his left 
shoulder, of approximately 1 day's duration, nonpleuritic or 
positional in nature. Sublingual nitroglycerine provided minimal 
improvement. Patient took 4x81 mg aspirin and presented for 
evaluation in the ED. Laboratory studies were notable for 
troponin of 0.02 in the setting of CKD with a Cr of 2.3 
(baseline), with ongoing stable anemia with Hb of 8.5. Patient 
was admitted for observation regarding his anginal pain. His 
cardiac markers did not elevate further. His isosorbide dosage 
was increased to 120 mg bid. He was discharged with instruction 
to follow-up with his primary care doctor and cardiologist.

# Hypertensive Urgency: 
Patient's observation course was notable for hypertensive 
urgency (first to systolic blood pressures of 210) in the 
setting of his ongoing intermittent anginal pain. His isosorbide 
was increased as above. Resuming his previous discontinued 
torsemide was considered, though he achieved improvement of his 
blood pressures on isosorbide alone. Diltiazem, hydralazine, and 
amlodipine were also continued. At time of discharge his blood 
pressures had improved and he was ambulating well with a walker. 


*Chronic Issues:
# History of Diastolic CHF:  Patient had a history of chronic 
CHF. There was no evidence of exacerbation during this 
admission. Patient had recently stopped his home torsemide in 
outpatient setting in late ___ due to elevated Cr. This was 
not resumed, as above.
# CKD: patient had a baseline of Cr 2.4-2.5 recently.  At 
baseline.  Seemed to improve after stopping Torsemide (was 3.1 
prior). Torsemide not resumed. 
# COPD: continued Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze  
# HIV:  Continued home Maivudine, Abacavir, Efavirenz
# GERD: continued pantoprazole, discontinued omeprazole given 
redundancy
# Constipation: continued senna/Colace.
# Nutrition: continued vitamin B12

TRANSITIONAL ISSUES:
- patient's isosorbide dosage was increased to 120 mg bid given 
his ongoing hypertensive urgency in the setting of intermittent 
anginal pain. Review of his records had indicated a steady 
pattern of hypertension at outpatient visits, and it appeared 
other elements of his regimen were already at max dosage.
- Patient was not resumed on his prior torsemide (d/c'd in 
___. Should he have refractory hypertension not responsive 
to the above, torsemide may be a good option to resume in the 
setting of his chronic kidney disease (if his Cr can tolerate a 
low dosage).
- Discussion took place with pharmacy regarding his statin 
dosage. Patient may benefit from uptitration of his pravastatin 
dosage to 40 mg daily, which is compatible with his current 
HAART regimen.
- Patient has blood cultures from admission that require 
follow-up
 # LANGUAGE: ___ 
 # CODE: Presumed full

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Abacavir Sulfate 300 mg PO BID 
2. Aspirin 81 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Cyanocobalamin ___ mcg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Efavirenz 600 mg PO DAILY 
7. LaMIVudine 150 mg PO DAILY 
8. Omeprazole 40 mg PO DAILY 
9. Senna 8.6 mg PO BID 
10. Pravastatin 20 mg PO QPM 
11. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze 
12. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
13. Amlodipine 10 mg PO DAILY 
14. Carvedilol 25 mg PO BID 
15. Diltiazem Extended-Release 240 mg PO DAILY 
16. HydrALAZINE 150 mg PO Q12H 
17. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 

 
Discharge Medications:
1.  Isosorbide Mononitrate (Extended Release) 120 mg PO BID 
RX *isosorbide mononitrate 120 mg 1 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*0 
2.  Abacavir Sulfate 300 mg PO BID  
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze  
4.  Amlodipine 10 mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Carvedilol 25 mg PO BID  
7.  Clopidogrel 75 mg PO DAILY  
8.  Cyanocobalamin ___ mcg PO DAILY  
9.  Diltiazem Extended-Release 240 mg PO DAILY  
10.  Docusate Sodium 100 mg PO BID  
11.  Efavirenz 600 mg PO DAILY  
12.  HydrALAZINE 150 mg PO Q12H  
13.  LaMIVudine 150 mg PO DAILY  
14.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
15.  Omeprazole 40 mg PO DAILY  
16.  Pravastatin 20 mg PO QPM  
17.  Senna 8.6 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Unstable angina

SECONDARY DIAGNOSIS:
Coronary Artery Disease
Hypertensive Urgency
Diastolic Congestive Heart failure
Chronic Kidney Disease
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you had symptoms of 
chest pain that seemed related to your prior history of coronary 
artery disease. You were evaluated in the emergency room with 
blood work, electrocardiography, and imaging, which demonstrated 
minimal evidence of another heart attack. It did seem that your 
pain was related to ongoing symptoms of your coronary artery 
disease, however. Past studies have indicated that you have some 
areas of the heart that do not receive as much blood flow, and 
this may be contributing to some of your occasional symptoms. It 
did not seem that any acute heart attack was happening, so we 
decided not to recommend another attempt at catheterization or 
thinning your blood.

Your blood pressures were markedly elevated on admission to the 
hospital, however, which we think could be related to the pain 
you are experiencing when you have angina. It can be dangerous 
for you to have sustained high blood pressures, especially given 
your heart disease, so we have increased the amount of 
isosorbide you take to 120 mg twice a day. 

Your blood pressures were better controlled at the end of the 
day and you were feeling better, so it was safe for you to leave 
the hospital. Please follow-up with your primary care and 
cardiology doctors and take ___ your medications as prescribed.

It was a pleasure to be involved with your medical care!
Your ___ Cardiology Team
 
Followup Instructions:
___